* C:\Users\nicola\Documents\git\AnalogSynth\VCA\Simulation\VCA.asc
V1 N003 0 15
V2 0 N008 15
XU2 0 N001 N003 N008 N002 LT1037
R1 N001 N005 100
R2 N002 N001 22k
R3 N005 N004 10k
M1 N005 0 N007 N007 NMOS
R4 N007 0 1000k
V3 N007 0 0.7
V4 N004 0 SINE(0 1 1K)
C1 N006 N002 1µ
R5 N006 0 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 10mS 0mS
.lib LTC.lib
.backanno
.end
