* C:\Users\nicola\Documents\git\AnalogSynth\VCA\Simulation\VCA.asc
V1 N003 0 15
V2 0 N009 15
XU2 N005 N001 N003 N009 N002 LT1037
R2 N002 N001 100k
R§1k N005 N004 1000k
M1 N005 N007 0 0 NMOS
V4 N004 0 SINE(0 0.040 150k)
V3 N006 0 EXP(0 1 0 1uS 1uS 0.5mS)
R3 N007 N006 10k
R1 N001 0 10k
C1 N002 N008 1µ
R5 N008 N007 200k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 2mS 0mS
.lib LTC.lib
.backanno
.end
